US05091378
A 70 ml THF solution of the Part G dibromide (5.48 g, 13.3 mmol) under argon atmosphere was cooled to -78° C. n-Butyllithium (10.6 ml of a 2.5M solution in hexane, 26.5 mmol) was added to the dibromide solution over 10 minutes. The reaction was stirred at -78° C. for 1 hour and then quenched at -78° C. with saturated aqueous NH4Cl solution. After the reaction was warmed to room temperature, it was diluted with 60 ml of H2O, and the aqueous layer was extracted 2 times with ether. All of the organic layers were combined and dried over MgSO4. Filtration and solvent removal gave 3.8 g of title benzyloxyacetylene in the form of a yellow solid. The title benzyloxyacetylene was purified by flash chromatography eluting with 3% ether/hexane. Title acetylene was obtained in 85% yield (2.76 g) as a white solid.

reactant | THF | 70 ml | C1CCOC1 | C4H8O
reactant | n-Butyllithium | C(CCC)[Li]
reactant | hexane | CCCCCC | C6H14
product | benzyloxyacetylene | 3.8 g | C(C1=CC=CC=C1)OC#C | C9H8O
